US04017599
Monohydroxyaluminum glycinate was prepared by reacting 2 grams of glycine with 1.25 grams of aluminum hydroxide (28.8% Al) powder in 10 grams of water. The mixture was agitated at 75° C. for 1/2 hour. To 15 grams of a 331/2 solution of 5/6 basic aluminum iodide solution, Al2 (OH)5I (5.49% Al), was added 31.2 grams of a zirconyl iodide solution (6.3% Zr). The glycinate mixture was then added to the above solution while agitating at 80° C. for 30 minutes. The resultant clear solution was evaporated at 55° C. under a vacuum of 150 mm of Hg. The product contained 6.63% Al, 11.1% Zr, 48.3% I, and 11.1% glycine.

reactant | glycine | 2 grams | NCC(=O)O | C2H5NO2
reactant | aluminum hydroxide | 1.25 grams | [OH-].[Al+3].[OH-].[OH-]
reactant | aluminum iodide | [I-].[Al+3].[I-].[I-]
reactant | iodide | 31.2 grams | [I-]
reactant | glycinate | NCC(=O)[O-]
solvent | water | 10 grams | O | H2O
product | Monohydroxyaluminum glycinate | NCC(=O)[O-].O[Al+2].NCC(=O)[O-] | InChI=1S/2C2H5NO2.Al.H2O/c2*3-1-2(4)5;;/h2*1,3H2,(H,4,5);;1H2/q;;+3;/p-3
